US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.123 g, 0.442 mmol) was reacted with N-(2-azidoethyl)-3,5-difluorobenzamide (0.100 g, 0.442 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(3,5-difluorobenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 8.25 (s, 1H), δ 7.39 (m, 3H), δ 6.88 (t, 1H), δ 6.43 (s, 1H), δ 6.38 (bs, 2H), δ 4.55 (s, 2H), δ 3.93 (s, 2H), δ 2.56 (t, 2H), δ 2.24 (s, 2H), δ 1.55 (m, 14H), δ 1.23 (s, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 165.9, 164.3, 164.2, 161.9, 150.3, 149.3, 148.2, 137.6, 122.4, 111.0, 110.8, 107.3, 107.1, 106.8, 106.6, 85.5, 49.3, 40.4, 29.9, 29.5, 29.1, 28.7, 28.2, 27.9, 27.5, 25.4 ppm; HRMS (ESI) calcd for C24H31F2N7O3 (M+) 503.2456. found 503.2458, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-3,5-difluorobenzamide hydrochloride (0.115 g, 59% yield). 1H NMR (400 MHz, CD3OD) δ 8.55 (s, 1H), δ 7.42 (d, 2H), δ 7.29 (t, 1H), δ 6.51 (s, 1H), δ 4.84 (t, 2H), δ 3.96 (q, 2H), δ 2.89 (t, 2H), δ 2.49 (t, 2H), δ 1.79 (m, 2H), δ 1.75 (m, 2H), δ 1.44 (m, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 164.5, 164.4, 127.6, 126.9, 110.6, 110.6, 110.3, 108.5, 107.1, 106.8, 106.6, 52.5, 39.5, 30.4, 27.9, 27.8, 27.6, 24.0, 23.8, 23.1 ppm; HRMS (ESI) calcd for C19H23F2N7O (M+) 403.1932. found 403.1926.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.442 mmol, 0.123 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-3,5-difluorobenzamide | 0.442 mmol, 0.100 g | N(=[N+]=[N-])CCNC(C1=CC(=CC(=C1)F)F)=O | C9H8F2N4O
product | tert-butyl 2-amino-4-(5-(1-(2-(3,5-difluorobenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(C1=CC(=CC(=C1)F)F)=O)C(=O)OC(C)(C)C | C24H31F2N7O3
